US07714009B2
N2-(4-Chloro-2-methoxy-6-methylphenyl)-N7-(4-chlorophenyl)-N7-isopropyl-1-methyl-1H-benzimidazole-2,7-diamine Hydrochloride
A mixture of 2-chloro-N-(4-chlorophenyl)-N-isopropyl-1-methyl-1H-benzimidazol-7-amine (30 mg, 0.90 mmol) and 4-chloro-2-methoxy-6-methylaniline (46 mg, 0.27 mmol) was stirred at 120° C. for 19 h. The mixture was dissolved in ethyl acetate (30 ml), washed with saturated aqueous sodium bicarbonate (15 ml) and water (10 ml), dried over magnesium sulfate and evaporated in vacuo. The residue was purified by reverse phase HPLC (acetonitrile containing 0.1 trifluoroacetic acid/water containing 0.1% trifluoroacetic acid). The fraction was concentrated to dryness, dissolved in methanol (10 ml) and treated with 2 M hydrogen chloride in diethyl ether (2 ml) and evaporated in vacuo to give 7.8 mg (19%) of the title compound as a powder.

reactant | 2-chloro-N-(4-chlorophenyl)-N-isopropyl-1-methyl-1H-benzimidazol-7-amine | 0.90 mmol, 30 mg | ClC1=NC2=C(N1C)C(=CC=C2)N(C(C)C)C2=CC=C(C=C2)Cl | C17H17Cl2N3
reactant | 4-chloro-2-methoxy-6-methylaniline | 0.27 mmol, 46 mg | ClC1=CC(=C(N)C(=C1)C)OC | C8H10ClNO
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | N2-(4-Chloro-2-methoxy-6-methylphenyl)-N7-(4-chlorophenyl)-N7-isopropyl-1-methyl-1H-benzimidazole-2,7-diamine Hydrochloride | 7.8 mg, 19% | Cl.ClC1=CC(=C(C(=C1)C)NC1=NC2=C(N1C)C(=CC=C2)N(C(C)C)C2=CC=C(C=C2)Cl)OC | InChI=1S/C25H26Cl2N4O.ClH/c1-15(2)31(19-11-9-17(26)10-12-19)21-8-6-7-20-24(21)30(4)25(28-20)29-23-16(3)13-18(27)14-22(23)32-5;/h6-15H,1-5H3,(H,28,29);1H
